US08445510B2
tert-Butyl-5-bromo-3-[(1S)-1-(2-chloro-6-{[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}-3-fluorophenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine-1-carboxylate
A suspension of tert-butyl 5-bromo-3-[(1S)-1-(2-chloro-3-fluoro-6-hydroxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (82.9 mg, 0.176 mmol), (R)-(−)-(2,2-dimethyl-1,3-dioxolan-4-yl)methyl p-toluenesulfonate (77.8 mg, 0.272 mmol), and potassium carbonate (102.5 mg, 0.7416 mmol) in DMF (3 mL) was subjected to microwave heating [Biotage, 110° C.] for 90 min. EtOAc was added to dilute the reaction mixture and a standard aqueous workup was performed. The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The crude was adsorbed onto a pre-filled silica gel loading cartridge [RediSepRf 5 g] and purified using the Teledyne/ISCO system [RediSepRf silica 12 gram GOLD column], eluting with a solvent system of 5-20% EtOAc:heptane. Fractions containing product were combined and concentrated in vacuo. The recovered material was dissolved in minimal MeOH, passed through a syringe filter, and purified a second time by MDP, under acidic conditions (formic acid). Fractions were combined and concentrated in vacuo, giving the title material as an off-white solid. 1H NMR (400 MHz, CDCl3): δ=8.42 (d, J=2.3 Hz, 1H), 7.50 (d, J=1.5 Hz, 1H), 7.47 (d, J=2.3 Hz, 1H), 7.01 (dd, J=9.1, 8.3 Hz, 1H), 6.70 (dd, J=9.1, 4.0 Hz, 1H), 4.91 (q, J=6.8 Hz, 1H), 4.01-4.18 (m, 2H), 3.81-3.89 (m, 1H), 3.78 (dd, J=7.7, 4.9 Hz, 1H), 3.73 (br s, 1H), 1.73 (d, J=7.1 Hz, 3H), 1.68 (s, 9H), 1.34 (d, J=14.9 Hz, 6H). MS (ES+): m/z 604.96/606.80/608.57 (21/100/24) [MH++Na]. HPLC: tR=4.13 min (ZQ3, nonpolar—5 min).

reactant | tert-butyl 5-bromo-3-[(1S)-1-(2-chloro-3-fluoro-6-hydroxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.176 mmol, 82.9 mg | BrC=1C=C2C(=NC1)N(C=C2[C@H](C)C2=C(C(=CC=C2O)F)Cl)C(=O)OC(C)(C)C | C20H19BrClFN2O3
reactant | (R)-(−)-(2,2-dimethyl-1,3-dioxolan-4-yl)methyl p-toluenesulfonate | 0.272 mmol, 77.8 mg | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC(OC1)(C)C)C | C13H18O5S
reactant | potassium carbonate | 0.7416 mmol, 102.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-Butyl-5-bromo-3-[(1S)-1-(2-chloro-6-{[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}-3-fluorophenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | C(C)(C)(C)OC(=O)N1C=C(C=2C1=NC=C(C2)Br)[C@H](C)C2=C(C(=CC=C2OC[C@@H]2OC(OC2)(C)C)F)Cl | C26H29BrClFN2O5
